US07723368B2
Step 3: 2-Amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-(3-methylphenyl)-3,5-dihydro-4H-imidazol-4-one
This compound was made in a similar manner to Example 89 Step 8 using 1-(4-(difluoromethoxy)phenyl)-2-m-tolylethane-1,2-dione (1.45 g, 5.0 mmol) from the previous step, 1-methylguanidine hydrochloride (821 mg, 7.5 mmol), Na2CO3 (795 mg, 7.5 mmol), and EtOH (10 mL) to provide 1.04 g, 60%, of the title compound as a beige foam.

reactant | 1-(4-(difluoromethoxy)phenyl)-2-m-tolylethane-1,2-dione | 5.0 mmol, 1.45 g | FC(OC1=CC=C(C=C1)C(C(=O)C=1C=C(C=CC1)C)=O)F | C16H12F2O3
reactant | 1-methylguanidine hydrochloride | 7.5 mmol, 821 mg | Cl.CNC(=N)N
reactant | Na2CO3 | 7.5 mmol, 795 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 10 mL | CCO | C2H6O
product | 2-Amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-(3-methylphenyl)-3,5-dihydro-4H-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C)C1=CC=C(C=C1)OC(F)F | C18H17F2N3O2
